US06071925
(RS)-3-Methyl-1-phenyl-8-(1,2,3,4-tetrahydro-naphthalen-1-yl)-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, m.p. 232-234° C. was prepared in accordance with the general method of example 4 from 1-phenyl-8-(1,2,3,4-tetrahydro-1-naphthyl)-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1) and methyl iodide.

reactant | 1-phenyl-8-(1,2,3,4-tetrahydro-1-naphthyl)-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C1(=CC=CC=C1)N1CNC(C12CCN(CC2)C2CCCC1=CC=CC=C21)=O
reactant | methyl iodide | CI | CH3I
product | (RS)-3-Methyl-1-phenyl-8-(1,2,3,4-tetrahydro-naphthalen-1-yl)-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.CN1CN(C2(C1=O)CCN(CC2)C2CCCC1=CC=CC=C21)C2=CC=CC=C2 | InChI=1S/C24H29N3O.ClH/c1-25-18-27(20-10-3-2-4-11-20)24(23(25)28)14-16-26(17-15-24)22-13-7-9-19-8-5-6-12-21(19)22;/h2-6,8,10-12,22H,7,9,13-18H2,1H3;1H
